US06638929B2
According to the procedure of example 97, the reaction mixture of 1.05 g (4.54 mmol) of methyl 3-amino-6-methoxy-2-naphthoate in 20 mL of dimethylformamide dimethylacetal is refluxed for 2.5 hours to give 840.5 mg (64.6%) of methyl 3-{[(E)-(dimethylamino)methylidene]amino}-6-methoxy-2-naphthoate as a beige solid, mp 122-124° C.

reactant | methyl 3-amino-6-methoxy-2-naphthoate | 4.54 mmol, 1.05 g | NC=1C(=CC2=CC=C(C=C2C1)OC)C(=O)OC | C13H13NO3
reactant | dimethylformamide dimethylacetal | 20 mL | COC(N(C)C)OC | C5H13NO2
product | methyl 3-{[(E)-(dimethylamino)methylidene]amino}-6-methoxy-2-naphthoate | 840.5 mg, 64.6% | CN(C)\C=N\C=1C(=CC2=CC=C(C=C2C1)OC)C(=O)OC | C16H18N2O3
